US06943266B1
[7-(3,5-Dimetho-xyphenyl)-7-oxo-1-heptynyl]trimethysilane (1.50 g, 4.75 mmol) was dissolved in 10 mL of anhydrous ether, the solution was cooled in an ice-bath under argon and a 3.16 mL of a 3 M solution of methylmagnesium bromide (9.48 mmol) in ether was added dropwise. The light grey solution was allowed to warm to room temperature and stirred for an additional hour. The reaction mixture was poured into saturated ammonium chloride solution, the organic phase was separated and the aqueous phase was extracted with fresh diethyl ether. The combined ether extracts were dried and ether removed to afford 1.50 g (95%) of pure [7-(3,5-dimethoxyphenyl)-7-hydroxy-1-octynyl]trimethysilane as a viscous oil after passing through a short silica gel column.

reactant | [7-(3,5-Dimetho-xyphenyl)-7-oxo-1-heptynyl]trimethysilane | 4.75 mmol, 1.50 g | COC=1C=C(C=C(C1)OC)C(CCCCC#C[Si](C)(C)C)=O | C18H26O3Si
reactant | methylmagnesium bromide | 9.48 mmol | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 mL | CCOCC | C4H10O
product | [7-(3,5-dimethoxyphenyl)-7-hydroxy-1-octynyl]trimethysilane | 1.50 g, 95% | COC=1C=C(C=C(C1)OC)C(CCCCC#C[Si](C)(C)C)(C)O | C19H30O3Si
